US08859732B2
The crude crystals (942 mg) of Fmoc-Leu-OBzl (2-MeO-4-OC12OC22) were dissolved in chloroform (9 mL), and diethylamine (1.99 mL, 19.2 mmol) was added dropwise under ice-cooling. The mixture was warmed to room temperature, acetonitrile (4.5 mL) was added, and the mixture was stirred for 3.5 hr. The reaction mixture was concentrated under reduced pressure, and the residue was precipitated with acetonitrile (10 mL) to give Leu-OBzl (2-MeO-4-OC12OC22) as wet crystals.

reactant | Fmoc-Leu-OBzl | N([C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C28H29NO4
reactant | diethylamine | 19.2 mmol, 1.99 mL | C(C)NCC | C4H11N
reactant | acetonitrile | 4.5 mL | C(C)#N | C2H3N
solvent | chloroform | 9 mL | C(Cl)(Cl)Cl | CHCl3
product | Leu-OBzl | N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1 | C13H19NO2
